US07829570B2
tert-Butyl 4-[7-amino-1-(4-nitrophenyl)-1H-pyrazolo[4,3-d]pyrimidine-3-yl]-1,2,3,6-tetrahydro-1-pyridinecarboxylate
The title compound was prepared from 3-iodo-1-(4-nitrophenyl)-1H-pyrazolo[4,3-d]pyrimidin-7-amine and tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,3,6-tetrahydro-1-pyridinecarboxylate in the manner described for the preparation of tert-butyl 4-[7-amino-1-(3-methoxy-4-nitrophenyl)-1H-pyrazolo[4,3-d]pyrimidin-3-yl]-1,2,3,6-tetrahydro-1-pyridinecarboxylate: 1H NMR (DMSO-d6, 400 MHz) δ 8.44 (m, 3H), 7.76 (d, 2H), 7.53 (m, 1H), 7.05 (bs, 2H), 4.13 (m, 2H), 3.58 (m, 2H), 2.67 (m, 2H), 1.44 (s, 9H); RP-HPLC (Hypersil HS C18, 5 μm, 100 A, 250×4.6 mm; 5%-100% acetonitrile-0.05 M ammonium acetate over 25 min, 1 mL/min) tr 21.70 min; MS: MH+ 438.1, M−H+ 436.1

reactant | 3-iodo-1-(4-nitrophenyl)-1H-pyrazolo[4,3-d]pyrimidin-7-amine | IC1=NN(C2=C1N=CN=C2N)C2=CC=C(C=C2)[N+](=O)[O-] | C11H7IN6O2
reactant | tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,3,6-tetrahydro-1-pyridinecarboxylate | CC1(OB(OC1(C)C)C=1CCN(CC1)C(=O)OC(C)(C)C)C | C16H28BNO4
reactant | tert-butyl 4-[7-amino-1-(3-methoxy-4-nitrophenyl)-1H-pyrazolo[4,3-d]pyrimidin-3-yl]-1,2,3,6-tetrahydro-1-pyridinecarboxylate | NC=1C2=C(N=CN1)C(=NN2C2=CC(=C(C=C2)[N+](=O)[O-])OC)C=2CCN(CC2)C(=O)OC(C)(C)C | C22H25N7O5
reactant | Hypersil | CO[C@H]1[C@@H](C[C@@H]2CN3CCC4=C([C@H]3C[C@@H]2[C@@H]1C(=O)OC)NC5=C4C=CC(=C5)OC)OC(=O)C6=CC(=C(C(=C6)OC)OC)OC | C33H40N2O9
solvent | acetonitrile | 0.05 M | C(C)#N | C2H3N
product | tert-Butyl 4-[7-amino-1-(4-nitrophenyl)-1H-pyrazolo[4,3-d]pyrimidine-3-yl]-1,2,3,6-tetrahydro-1-pyridinecarboxylate | NC=1C2=C(N=CN1)C(=NN2C2=CC=C(C=C2)[N+](=O)[O-])C=2CCN(CC2)C(=O)OC(C)(C)C | C21H23N7O4
